US07446199B2
2,2,2-Trichloro-1-{4-[(2,3-difluoro-phenyl)-acetyl]-1H-pyrrol-2-yl}-ethanone (300 mg, 0.82 mmol) and (2,2-Dimethoxy-ethyl)-methyl-amine (116 μL, 0.900 mmol) in acetonitrile were heated for 5 hr. Evaporation afforded 299 mg (99%) of 4-[(2,3-Difluoro-phenyl)-acetyl]-1H-pyrrole-2-carboxylic acid (2,2-dimethoxy-ethyl)-methyl-amide. 1H NMR (500 MHz, CDCl3) δ: 10.1-9.9 (1H, vbs), 7.02-6.96 (5H, cm), 4.51 (1H, s), 4.05 (2H, s) 3.59 (3H, bs), 3.39-3.36 (6H, s). LC/MS: Rt 3.13 mins.; m/e 367.26 (M+H), 365.34 (M−H).

reactant | 2,2,2-Trichloro-1-{4-[(2,3-difluoro-phenyl)-acetyl]-1H-pyrrol-2-yl}-ethanone | 0.82 mmol, 300 mg | ClC(C(=O)C=1NC=C(C1)C(CC1=C(C(=CC=C1)F)F)=O)(Cl)Cl | C14H8Cl3F2NO2
reactant | (2,2-Dimethoxy-ethyl)-methyl-amine | 0.900 mmol, 116 μL | COC(CNC)OC | C5H13NO2
solvent | acetonitrile | C(C)#N | C2H3N
product | 4-[(2,3-Difluoro-phenyl)-acetyl]-1H-pyrrole-2-carboxylic acid (2,2-dimethoxy-ethyl)-methyl-amide | 299 mg, 99% | COC(CN(C(=O)C=1NC=C(C1)C(CC1=C(C(=CC=C1)F)F)=O)C)OC | C18H20F2N2O4
